US06063782
7-Benzyloxy-2,3-dimethyl-1-(3-phenyl-2-propenyl)pyrrolo[2,3-d]pyridazine
The title compound (trans) was prepared as pale brown crystals in 85.4% yield in a similar procedure to that described in Example 1 by using 7-chloro-2,3-dimethyl-1-(3-phenyl-2-propenyl)pyrrolo[2,3-d]pyridazine (trans) and benzyl alcohol.

reactant | 7-chloro-2,3-dimethyl-1-(3-phenyl-2-propenyl)pyrrolo[2,3-d]pyridazine | ClC=1N=NC=C2C1N(C(=C2C)C)CC=CC2=CC=CC=C2 | C17H16ClN3
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
product | 7-Benzyloxy-2,3-dimethyl-1-(3-phenyl-2-propenyl)pyrrolo[2,3-d]pyridazine | 85.4% yield | C(C1=CC=CC=C1)OC=1N=NC=C2C1N(C(=C2C)C)CC=CC2=CC=CC=C2 | C24H23N3O
